US04751244
Step A: Ethyl (4-formylphenoxy)acetate
p-Hydroxybenzaldehyde (122 g, 1 mole), ethyl bromoacetate (167 g, 1 mole), potassium carborate (138 g, 1 mole) and acetone (500 ml) were united, stirred and refluxed for 3 hours. The reaction mixture was poured into crushed ice (2 kg). The solid that separates was removed by filtrations, washed with water, dried and recrystallized from ethanol to give 157 g of product, m.p. 41°-42° C.

reactant | p-Hydroxybenzaldehyde | 1 mole, 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ethyl bromoacetate | 1 mole, 167 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium | [K] | K
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | Ethyl (4-formylphenoxy)acetate | 157 g | C(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C11H12O4
